US07268128B2
N-[2-(benzyloxy)ethyl]-N-ethylamine
To 7.0 g (30 mmol) of 2-(benzyloxy)ethyl methanesulfonate, a 75 ml methanol solution of 2M ethylamine was added, and the mixture was heated at 110° C. in a sealed tube for 2 hours. Then, the reaction mixture was returned to room temperature, and then diluted with methylene chloride. The dilution was washed with a saturated aqueous solution of sodium hydride. The washed system was dried over sodium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1) to obtain 3.85 g (72%) of the captioned compound.

reactant | 2-(benzyloxy)ethyl methanesulfonate | 30 mmol, 7.0 g | CS(=O)(=O)OCCOCC1=CC=CC=C1 | C10H14O4S
reactant | methanol | 75 ml | CO | CH4O
reactant | ethylamine | 2M | C(C)N | C2H7N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[2-(benzyloxy)ethyl]-N-ethylamine | 3.85 g, 72% | C(C1=CC=CC=C1)OCCNCC | C11H17NO
